US09359359B2
To a solution of 1-(3-(benzyloxy)cyclobutyl)-7-(4-chlorobenzyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (220 mg, 0.49 mmol) in DMF (3 mL) was added NCS (71.7 mg, 0.54 mmol) in portions at 0° C. The reaction was stirred at room temperature for 4 h. The reaction was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried and concentrated to give a crude product, which was purified by silica gel chromatography eluting with DCM/methanol (60:1) to give 1-(3-(benzyloxy)cyclobutyl)-8-chloro-7-(4-chlorobenzyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (170 mg, 71.8% yield) as yellow solid. LCMS retention time 2.079 min; LCMS MH+ 485.

reactant | 1-(3-(benzyloxy)cyclobutyl)-7-(4-chlorobenzyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.49 mmol, 220 mg | C(C1=CC=CC=C1)OC1CC(C1)N1C(N(C=2N=CN(C2C1=O)CC1=CC=C(C=C1)Cl)C)=O | C24H23ClN4O3
reactant | NCS | 0.54 mmol, 71.7 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(3-(benzyloxy)cyclobutyl)-8-chloro-7-(4-chlorobenzyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 170 mg, 71.8% yield | C(C1=CC=CC=C1)OC1CC(C1)N1C(N(C=2N=C(N(C2C1=O)CC1=CC=C(C=C1)Cl)Cl)C)=O | C24H22Cl2N4O3
